US04113591
Preparation of 2,2,2-trichloroethyl 3-methylthiomethyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate from the product of Example B5 without isolation of intermediate
2,2,2-Trichloroethyl 3-bromomethyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate, 1β-oxide (11.48g, 20 mmole) was reacted with methanethiol as in Example D18(i) and the resulting solution in N,N-dimethylformamide used directly in a reduction step as described in Example D18(ii) to provide the solvated title compound as a pale-yellow foam (10.90 g,), [α]D + 37.5° (c, 1.25) λmax. 269 nm (E1cm1% 165) and 276 nm. (E1cm1% 160) inflexion at 263 nm (E1cm1% 151). The P.M.R. spectrum of this product closely resembled that of the product from Example D18(ii)

reactant | 2,2,2-Trichloroethyl 3-bromomethyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate | BrCC=1CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C18H16BrCl3N2O5S
reactant | methanethiol | CS | CH4S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,2,2-trichloroethyl 3-methylthiomethyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate | 10.90 g | CSCC=1CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C19H19Cl3N2O5S2
